US08217168B2
3-bromo-4-methyl-2,5-furandione (prepared as described in Org. and Bimolecular chemistry, pag 1782, 2004; 4.8 g, 25.1 mmol) and {[2,4-bis(methyloxy)phenyl]methyl}amine (3.78 mL, 25.1 mmol) were dissolved in acetic acid (100 mL) and the mixture was stirred at 100° C. overnight. Solvent was then concentrated under reduced pressure, additional acetic acid (100 mL) was added followed by sodium acetate (1.443 g, 17.59 mmol) and the mixture was refluxed for further 3 hours. Solvent was eliminated under reduced pressure and the residue was partitioned between DCM and water. Organic phase was washed with water, dried and solvent was eliminated under reduced pressure providing a crude that was purified by flash chromatography (eluent: Cy to Cy/AcOEt 7:3) affording 1-{[2,4-bis(methyloxy)phenyl]methyl}-3-bromo-4-methyl-1H-pyrrole-2,5-dione (8.55 g, 25.1 mmol, 100% yield) as a light yellow solid.

reactant | 3-bromo-4-methyl-2,5-furandione | 25.1 mmol, 4.8 g | BrC=1C(OC(C1C)=O)=O | C5H3BrO3
reactant | {[2,4-bis(methyloxy)phenyl]methyl}amine | 25.1 mmol, 3.78 mL | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
reactant | sodium acetate | 17.59 mmol, 1.443 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 1-{[2,4-bis(methyloxy)phenyl]methyl}-3-bromo-4-methyl-1H-pyrrole-2,5-dione | 25.1 mmol, 8.55 g, 100% yield | COC1=C(C=CC(=C1)OC)CN1C(C(=C(C1=O)C)Br)=O | C14H14BrNO4
